US08802850B2
(1S,2S,3R,5S)-3-(7-((1R,2S)-2-(3,4-difluorophenyl)cyclopropylamino)-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2 diol (ticagrelor-d0)
A solution of 2-((3aR,4S,6R,6aS)-6-(7-((1R,2S)-2-(3,4-difluorophenyl)cyclopropylamino)-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol (450 mg, 0.80 mmol, 1.00 equiv.) in methanol (4 mL) and 12N hydrochloric acid (1.5 mL) was stirred at ambient temperature for about 3 hours. The pH value of the solution was adjusted to 8-9 by adding potassium carbonate. Following standard extractive workup with ethyl acetate (3×20 mL), the resulting crude residue was purified by silica gel column chromatography (dichloromethane/methanol (50:1)) to give a semi-crude product (200 mg; yield=48%). The semi-crude product, which contained about 5% of other diastereoisomers, was then further purified by chiral-prep HPLC (column: Chiralpak IA2×25 cm, 5 umChiral-P(IA)004IA00CJ-MB003) to afford the title compound (100 mg). [α]D24.1-43.2° (c, 0.2 g/100 mL in MeOH). LC-MS: m/z=523.0 (MH)+, Retention time: 1.58 minute. 1H NMR (300 MHz, CD3OD) δ: 7.08-7.23 (m, 3H), 5.13 (q, 1H), 4.75-4.79 (m, 1H), 4.17-4.20 (m, 1H), 3.91-3.95 (m, 1H), 3.63-3.73 (m, 4H), 3.06-3.26 (m, 2H), 2.90-3.00 (m, 1H), 2.70-2.80 (m, 1H), 2.05-2.29 (m, 2H), 1.60-1.88 (m, 2H), 1.38-1.59 (m, 2H), 0.94 (t, J=7.5 Hz, 3H).

reactant | 2-((3aR,4S,6R,6aS)-6-(7-((1R,2S)-2-(3,4-difluorophenyl)cyclopropylamino)-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol | 0.80 mmol, 450 mg, 1.00 equiv. | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)NC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@@H]2C[C@@H]([C@@H]1[C@H]2OC(O1)(C)C)OCCO | C26H32F2N6O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | hydrochloric acid | 12N, 1.5 mL | Cl | ClH
product | (1S,2S,3R,5S)-3-(7-((1R,2S)-2-(3,4-difluorophenyl)cyclopropylamino)-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2 diol | 100 mg, yield=48% | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)NC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@H]2[C@@H]([C@@H]([C@H](C2)OCCO)O)O | C23H28F2N6O4S
